US07666848B2
d) 3,4,5-Triacetoxy-6-(2-vinyl-thiophen-3-yloxy)-tetrahydropyran-2-ylmethyl actate
3.30 g of 3,4,5-triacetoxy-6-(2-formyl-thiophen-3-yloxy)-tetrahydropyran-2-ylmethyl actate were dissolved in 60 ml of dioxane. 6.43 g of methyltriphenylphosphonium bromide, 5.37 g of potassium carbonate and 0.25 ml of water were added, and the solution was refluxed for 4 h. The solution was concentrated and purified by column filtration. 2.89 g of the product with the molecular weight: 456.47 (C20H24O10S), MS (ESI): 479.10 (M+Na+); 474.10 (M+NH4+) were obtained.

reactant | 3,4,5-triacetoxy-6-(2-formyl-thiophen-3-yloxy)-tetrahydropyran-2-ylmethyl actate | 3.30 g | C(C)(=O)OCC1OC(C(C(C1OC(C)=O)OC(C)=O)OC(C)=O)OC1=C(SC=C1)C=O | C19H22O11S
reactant | potassium carbonate | 5.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.25 ml | O | H2O
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | methyltriphenylphosphonium bromide | 6.43 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3,4,5-Triacetoxy-6-(2-vinyl-thiophen-3-yloxy)-tetrahydropyran-2-ylmethyl actate | C(C)(=O)OCC1OC(C(C(C1OC(C)=O)OC(C)=O)OC(C)=O)OC1=C(SC=C1)C=C | C20H24O10S
